US07842696B2
DIPEA (141 mg, 0.19 mL, 1.1 mmol) was added to a stirred solution of 1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (70 mg, 0.27 mmol) in DMF (5 mL). HOBT (40 mg, 0.29 mmol) and EDCI (131 mg, 0.68 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (111 mg, 0.3 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using 60-120 silica gel and 70% EtOAC in hexane as eluent) to afford 43 mg (27.56% yield) of 1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide, LCMS Purity: 86.39%. 1H NMR (CDCl3): δ 8.0 (s, 1H), 7.8 (t, 1H), 7.56-7.4 (m, 5H), 7.26 (s, 1H), 7.1 (d, 2H), 4.36-4.2 (m, 2H), 4.06-3.84 (m, 1H), 3.8-3.64 (m, 2H), 3.62-3.48 (m, 2H), 3.44 (t, 1H), 3.3-3.2 (m, 2H).

reactant | DIPEA | 1.1 mmol, 0.19 mL, 141 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 0.27 mmol, 70 mg | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C(=O)O | C11H7F3N2O2
reactant | HOBT | 0.29 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.68 mmol, 131 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.3 mmol, 111 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 43 mg, 27.56% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)C=2C=NN(C2C(F)(F)F)C2=CC=CC=C2)=O)C1)C(F)(F)F | C25H20F7N5O3
